US05728835
4-Chloromethyl-N-(2-methoxyphenyl)-N-(1,3-dioxolan-2-yl)methylbenzamide
In an atmosphere of argon, a mixture consisting of o-anisidine (500 mg, 4.06 mmol), triethylamine (1.6 ml, 11.5 mmol) and 2-bromomethyl-1,3-dioxolan (0.96 ml, 8.18 mmol) was stirred at 80° C. for 4 days, dissolved in methylene chloride (8 ml) and then, with cooling in an ice bath, mixed with 20% sodium hydroxide aqueous solution (4 ml) and 4-chloromethylbenzoyl chloride (768 mg, 4.06 mmol). After 1 hour of stirring at the same temperature, the resulting mixture was extracted with methylene chloride, washed with 10% citric acid aqueous solution and saturated brine and then dried on anhydrous sodium sulfate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by subjecting it to a silica gel column chromatography (ethyl acetate:hexane=2:5) to obtain 704 mg (47.9%) of the title compound in the form of colorless solid.

reactant | o-anisidine | 4.06 mmol, 500 mg | COC=1C(=CC=CC1)N | C7H9NO
reactant | triethylamine | 11.5 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromomethyl-1,3-dioxolan | 8.18 mmol, 0.96 ml | BrCC1OCCO1 | C4H7BrO2
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | 4-chloromethylbenzoyl chloride | 4.06 mmol, 768 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloromethyl-N-(2-methoxyphenyl)-N-(1,3-dioxolan-2-yl)methylbenzamide | 704 mg, 47.9% | ClCC1=CC=C(C(=O)N(CC2OCCO2)C2=C(C=CC=C2)OC)C=C1 | C19H20ClNO4
